US06921753B2
N-Isopropyl-2-phenyl-2-propanamine
Sodium triacetoxyborohydride (4.5 g, 21.2 mmol) was added portionwise to a solution of 1-methyl-1-phenylethylamine (0.96 g, 7.1 mmol) in a mixture of acetone (5 ml) and dichloromethane (120 ml). The reaction mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure and the residue was partitioned between aqueous sodium hydroxide solution (2M, 100 ml) and ethyl acetate (200 ml). The ethyl acetate layer was washed with water (100 ml) and brine (100 ml) and then dried over anhydrous magnesium sulphate. The solvent was removed under reduced pressure to give the title compound (1 g) as a colourless oil.

reactant | Sodium triacetoxyborohydride | 21.2 mmol, 4.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methyl-1-phenylethylamine | 7.1 mmol, 0.96 g | CC(C)(C1=CC=CC=C1)N | C9H13N
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-Isopropyl-2-phenyl-2-propanamine | 1 g | C(C)(C)NC(C)(C)C1=CC=CC=C1 | C12H19N
